US04435569
Production of 2-amino-5-benzylaminomethylpyrrolo[2,3-d]pyrimidin-4-one
In 5 ml of methanol was dissolved 251 mg of 2-amino-5-aminomethylpyrrolo[2,3-d]pyrimidin-4-one (dihydrochloride). To this solution was added 396 mg of a 28% methanolic solution of sodium methoxide, and under stirring at room temperature, 106 mg of benzaldehyde and, then, 1 g of molecular sieve (Wako Pure Chemical Co. in Japan 3 A 1/16) were added. The mixture was stirred for 30 minutes, after which 25 mg of sodium borohydride was added. The mixture was further stirred at room temperature for 30 min., and 0.3 ml of concentrated HCl and, then, 5 ml of 5.4% ammonia-ethanol were added. The insolubles were filtered off, the filtrate was concentrated, and the residue was purified by silica gel column chromatography to give 214 mg of the desired compound.

reactant | 2-amino-5-aminomethylpyrrolo[2,3-d]pyrimidin-4-one | 251 mg | NC1=NC(C=2C(=N1)N=CC2CN)=O | C7H7N5O
reactant | sodium methoxide | C[O-].[Na+]
reactant | benzaldehyde | 106 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 25 mg | [BH4-].[Na+]
reactant | HCl | 0.3 ml | Cl | ClH
reactant | ammonia ethanol | 5 ml | N.C(C)O
solvent | methanol | 5 ml | CO | CH4O
product | 2-amino-5-benzylaminomethylpyrrolo[2,3-d]pyrimidin-4-one | 214 mg | NC1=NC(C=2C(=N1)N=CC2CNCC2=CC=CC=C2)=O | C14H13N5O
